US07807709B2
E. ((3S*,4R*)-1-Benzyl-4-hydroxymethyl-pyrrolidin-3-ylmethyl)-isopropyl-carbamic acid tert-butyl ester
A mixture of carbonic acid (3R*,4S*)-1-benzyl-4-[(tert-butoxycarbonyl-isopropyl-amino)-methyl]-pyrrolidin-3-ylmethyl ester tert-butyl ester (2.02 g, 4.31 mmol) and NaOEt (0.59 g, 8.62 mmol) in EtOH (35 mL) is stirred for 2 h at room temperature. The solvent is concentrated and the residue is diluted by CH2Cl2 and H2O. The layers are separated and the organic extract is washed successively with H2O and brine. The combined organic layers are dried with MgSO4, filtered and concentrated. The crude material is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 95:5) to give the title product. TLC, Rf (AcOEt)=0.23. MS (LC-MS): 363.3 [M+H]+; tR (HPLC, C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/2.5 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 5.06 min.

reactant | carbonic acid (3R*,4S*)-1-benzyl-4-[(tert-butoxycarbonyl-isopropyl-amino)-methyl]-pyrrolidin-3-ylmethyl ester tert-butyl ester | 4.31 mmol, 2.02 g | C(C)(C)(C)OC(OC[C@H]1CN(C[C@H]1CN(C(C)C)C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C26H42N2O5
reactant | NaOEt | 8.62 mmol, 0.59 g | CC[O-].[Na+]
solvent | EtOH | 35 mL | CCO | C2H6O
product | ((3S*,4R*)-1-Benzyl-4-hydroxymethyl-pyrrolidin-3-ylmethyl)-isopropyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C(C)C)C[C@@H]1CN(C[C@@H]1CO)CC1=CC=CC=C1)=O | C21H34N2O3
